US07781431B2
Step 3: methyl 1-benzyl-2-chloro-5-phenyl-1H-pyrrole-3-carboxylate
A solution (7 M) of methyl 2-chloro-5-phenyl-1H-pyrrole-3-carboxylate in DMF at 0° C. was treated with NaH (1.2 eq., 60% dispersion in mineral oil), and the suspension was stirred at RT for 30 min then it was treated with benzyl bromide (1.2 eq.). The reaction mixture was stirred at RT for 90 min then poured into water and extracted with AcOEt. The combined organic phase was washed with water and dried. Evaporation of the solvent gave a residue that was purified by flash chromatography on silica gel (1:8 AcOEt/petroleum ether) to afford the title compound (71%) as a solid.

reactant | methyl 2-chloro-5-phenyl-1H-pyrrole-3-carboxylate | 7 M | ClC=1NC(=CC1C(=O)OC)C1=CC=CC=C1 | C12H10ClNO2
reactant | NaH | 1.2 eq. | [H-].[Na+]
reactant | benzyl bromide | 1.2 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 1-benzyl-2-chloro-5-phenyl-1H-pyrrole-3-carboxylate | 71% | C(C1=CC=CC=C1)N1C(=C(C=C1C1=CC=CC=C1)C(=O)OC)Cl | C19H16ClNO2
